US04336253
A. Preparation of N-hydroxy 3-pyridineacetamide
A solution of 13.8 g. (200 mmole) of hydroxylamine hydrochloride and 27.8 ml. (200 mmole) of triethylamine in 500 ml. of methyl alcohol was cooled to a temperature of -5° C. and 30.2 g. (200 mmole) of methyl 3-pyridineacetate were added. The mixture was stirred for 6 hours at room temperature and then 10.8 g. (200 mmole) of sodium methylate were added causing a slight exotherm to occur. The reaction mixture was then stirred for 27.5 hours. The reaction mixture was filtered and the filtrate evaporated to dryness. The crude residue of product was sonicated with 50 ml. of chloroform and filtered. The insoluble crude product (25.10 g) was crystallized from 50 ml. of water. There were obtained 15.54 g. of product melting with decomposition at about 163° C. to about 165° C.

reactant | hydroxylamine hydrochloride | 200 mmole | Cl.NO
reactant | triethylamine | 200 mmole | C(C)N(CC)CC | C6H15N
reactant | methyl 3-pyridineacetate | 200 mmole | N1=CC(=CC=C1)CC(=O)OC | C8H9NO2
reactant | sodium methylate | 200 mmole | C[O-].[Na+]
solvent | methyl alcohol | CO | CH4O
product | N-hydroxy 3-pyridineacetamide | ONC(CC=1C=NC=CC1)=O | C7H8N2O2
